US08304036B2
A mixture 0111.0 g (41.1 mmol) of 2-iodoselenophene, 7.98 g (32.4 mmol) of 4-(4-propylcyclohexyl)phenylboronic acid, 3.70 g (3.20 mmol) of tetrakis(triphenylphosphine)palladium(0) and 60 ml of 2 N sodium carbonate soln. in 160 ml of toluene/ethanol (1:1) is heated under reflux for 22 h. After cooling, water is added, and the batch is extracted a number of times with MTBE. The combined organic phases are washed with water, sat. sodium hydrogencarbonate soln., 1 N hydrochloric acid and sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The residue is purified by column chromatography (SiO2, n-heptane:EtOAc=20:1). The further purification is carried out by recrystallisation from n-heptane; 2-[4-(4-propylcyclohexyl)phenyl]selenophene is obtained as a colourless solid.

reactant | 2-iodoselenophene | 41.1 mmol | IC=1[Se]C=CC1 | C4H3ISe
reactant | 4-(4-propylcyclohexyl)phenylboronic acid | 32.4 mmol, 7.98 g | C(CC)C1CCC(CC1)C1=CC=C(C=C1)B(O)O | C15H23BO2
reactant | sodium carbonate | 2 N, 60 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | toluene ethanol | 160 ml | C1(=CC=CC=C1)C.C(C)O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3.20 mmol, 3.70 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[4-(4-propylcyclohexyl)phenyl]selenophene | C(CC)C1CCC(CC1)C1=CC=C(C=C1)C=1[Se]C=CC1 | C19H24Se
